US07981874B2
4-(chloromethyl)benzoyl chloride (12 g, 63.5 mmol) was dissolved in THF (120 mL) and a solution of 1,1-dimethylethyl (3-aminobiphenyl-4-yl)carbamate (19.86 g, 69.8 mmol) and DIPEA (12.2 mL, 69.8 mmol) in THF (300 mL) was added dropwise at room temperature. After stirring for 1 hour, saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was triturated in Et2O to give 1,1-dimethylethyl [3-({[4-(chloromethyl)phenyl]carbonyl}amino)biphenyl-4-yl]carbamate as a white solid. 1H NMR (d6-DMSO, 600 MHz) δ 9.92 (s, 1H), 8.75 (s, 1H), 7.97 (d, J=8.4 Hz, 2H), 7.83 (s, 1H), 7.63 (m, 3H), 7.59 (d, J=8.4 Hz, 2H), 7.50 (dd, J=8.4 and 1.8 Hz, 1H), 7.44 (t, J=7.2 Hz, 2H), 7.33 (t, J=7.2 Hz, 1H), 4.84 (s, 2H), 1.44 (s, 9H).

reactant | 4-(chloromethyl)benzoyl chloride | 63.5 mmol, 12 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 1,1-dimethylethyl (3-aminobiphenyl-4-yl)carbamate | 69.8 mmol, 19.86 g | NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H20N2O2
reactant | DIPEA | 69.8 mmol, 12.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl [3-({[4-(chloromethyl)phenyl]carbonyl}amino)biphenyl-4-yl]carbamate | ClCC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H25ClN2O3
